US07514422B2
N-(3-methylbut-2-enyl),N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine
A solution of N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine (0.700 g, 1.88 mmol) in toluene (25 mL) was treated with K2CO3 (0.340 g, 2.4 mmol), KOH (0.210 g, 3.76 mmol), n-Bu4NBr (0.060 g, 0.19 mmol) and 4-bromo-2-methyl-2-butene (0.364 g, 2.44 mmol). The mixture was stirred at 80 C for 3 hours, cooled to 20 C, diluted with ether (100 mL), washed with 10% HCl (50 mL) and concentrated. Flash chromatography (10% EtOAc in hexane, silica) resulted in 0.272 g of a clear oil. 1H NMR (400 MHz, CDCl3, mixture of rotamers) d 7.65 (m, 1H), 6.75 (m, 1H), 6.54 (m, 1H), 5.20 (m, 0.4H), 5.0 (m, 0.6H), 4.10 (m, 1H), 3.82 (m, 1H), 3.76 (d, 2H), 3.50 (m, 2H), 3.02 (m, 2H), 1.75 (m, 3H), 1.66(m, 3H).

reactant | N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine | 1.88 mmol, 0.700 g | FC(C(=O)NCCC1=C(C=CC(=C1)OC)I)(F)F | C11H11F3INO2
reactant | K2CO3 | 2.4 mmol, 0.340 g | C(=O)([O-])[O-].[K+].[K+]
reactant | KOH | 3.76 mmol, 0.210 g | [OH-].[K+]
reactant | 4-bromo-2-methyl-2-butene | 2.44 mmol, 0.364 g | BrCC=C(C)C | C5H9Br
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | n-Bu4NBr | 0.19 mmol, 0.060 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | ether | 100 mL | CCOCC | C4H10O
product | N-(3-methylbut-2-enyl),N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine | 0.272 g | CC(=CCN(C(C(F)(F)F)=O)CCC1=C(C=CC(=C1)OC)I)C | C16H19F3INO2
